US07378417B2
5-(4-Chloro-phenyl)-7-difluoromethyl-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid[3-(4-methyl-piperazine-1-sulfonyl)-phenyl]-amide
The title compound was prepared from 5-(4-chloro-phenyl)-7-difluoromethyl-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid (example C.3) and 3-(4-methyl-piperazine-1-sulfonyl)-phenylamine [CAS 436095-35-1] according to general procedure II. Yellow solid. MS (ISP) 561.5 [(M+H)+]; mp 147° C.

reactant | 5-(4-chloro-phenyl)-7-difluoromethyl-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid | ClC1=CC=C(C=C1)C1=NC=2N(C(=C1)C(F)F)N=CC2C(=O)O | C14H8ClF2N3O2
reactant | 3-(4-methyl-piperazine-1-sulfonyl)-phenylamine | CN1CCN(CC1)S(=O)(=O)C=1C=C(C=CC1)N | C11H17N3O2S
product | 5-(4-Chloro-phenyl)-7-difluoromethyl-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid[3-(4-methyl-piperazine-1-sulfonyl)-phenyl]-amide | CN1CCN(CC1)S(=O)(=O)C=1C=C(C=CC1)NC(=O)C=1C=NN2C1N=C(C=C2C(F)F)C2=CC=C(C=C2)Cl | C25H23ClF2N6O3S
